US04743601
7-Chloro-N-[(1-hydroxycyclohexyl)methyl]-4-quinolinamine
A solution of 20 g of 4,7-dichloroquinoline, 20 g of 1-aminomethyl-1-cyclohexanol hydrochloride and 3 equivalents of triethylamine in 80 ml of 2-ethoxyethanol was stirred at reflux until the reaction was complete. The reaction was complete after 16 hours, and upon dilution of the reaction mixture with water (300 ml), a solid precipitated out which was isolated by filtration. Recrystallization from ethanol gave 16 g of crystalline solid with a melting point of 205°-207° C.

reactant | 4,7-dichloroquinoline | 20 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1-aminomethyl-1-cyclohexanol hydrochloride | 20 g | Cl.NCC1(CCCCC1)O
reactant | triethylamine | 3 equivalents | C(C)N(CC)CC | C6H15N
solvent | 2-ethoxyethanol | 80 ml | C(C)OCCO | C4H10O2
product | 7-Chloro-N-[(1-hydroxycyclohexyl)methyl]-4-quinolinamine | 16 g | ClC1=CC=C2C(=CC=NC2=C1)NCC1(CCCCC1)O | C16H19ClN2O
